US05914401
In Canadian patent 1,178,961 piperazine is condensed with 1-ethyl-6-fluoro-7-chloro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid to give norfloxacin. Canadian patent 1,214,466 claims the process of making the ester analogues of norfloxacin by the condensation of piperazine with the ester of the above compound. Hydrolysis of the ester leads to norfloxacin. Canadian patent 1,273,936 relates only to the synthesis of the quinolone carboxylic acid by cyclocondensation of a 2-benzoyl-3-amino-acrylonitrile followed by hydrolysis.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 1-ethyl-6-fluoro-7-chloro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C12H9ClFNO3
product | norfloxacin | CCN1C=C(C(=O)C2=C1C=C(C(=C2)F)N3CCNCC3)C(=O)O | C16H18FN3O3
